US07601873B2
A mixture was prepared by mixing 4.0 g (28 mmol) of 4-chloro-o-phenylenediamine, 14 mL of thionyl chloride and 0.62 mL of concentrated sulfuric acid and was refluxed for one hour. This mixture was cooled and then poured onto ice, and a resultant precipitate was filtered and collected. This precipitate was washed with water till the waste water became neutral and then thoroughly dried to yield 4.6 g of 5-chloro-2,1,3-benzothiadiazole as a crude product (melting point, 50 to 54° C.; yield, 96%). This crude product was vacuum-distilled to yield a pure product of 5-chloro-2,1,3-benzothiadiazole (melting point, 54° C.; yield, 85%).

reactant | 4-chloro-o-phenylenediamine | 28 mmol, 4.0 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | thionyl chloride | 14 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sulfuric acid | 0.62 mL | S(O)(O)(=O)=O | H2O4S
product | 5-chloro-2,1,3-benzothiadiazole | 4.6 g | ClC1=CC=2C(=NSN2)C=C1 | C6H3ClN2S
